US07074801B1
6-Bromo-4-{4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}quinazoline
A mixture of 300 mg 6-bromo-4-chloroquinazoline, 350 mg 1-[3-(trifluoromethyl)phenyl]piperazine, 0.18 mL triethylamine and 5 mL N,N-dimethylformamide was stirred at room temperature for 4 hours. After the solvent was evaporated, the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give a yellow oil. This product was crystallized from diethyl ether to give 360 mg of the title compound as pale yellow crystals.

reactant | 6-bromo-4-chloroquinazoline | 300 mg | BrC=1C=C2C(=NC=NC2=CC1)Cl | C8H4BrClN2
reactant | 1-[3-(trifluoromethyl)phenyl]piperazine | 350 mg | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | triethylamine | 0.18 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-4-{4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}quinazoline | 360 mg | BrC=1C=C2C(=NC=NC2=CC1)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C19H16BrF3N4
